US05362742
To a solution of 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (1.34 g) in dichloromethane (100 ml) was dropwise added DCC (945 mg) under stirring at a temperature of 0° C. The mixture was stirred at 0° C. for 15 minutes, and 3-amino-4-(2-chlorophenyl)-6,8- dimethylquinoline (1.04 g) was added thereto. Thus resulting mixture was further stirred at 0° C. for an hour and at room temperature for one night. The reaction mixture was filtered and the filtrate was concentrated. The residue was purified by a silica gel column chromatography with hexane-ethyl acetate (8:2,V/V), and then crystallized from acetone to give 4-(2-chlorophenyl)-3-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylcarbonyl)amino-6,8-dimethylquinoline (341 mg, 18.0%) as colorless prisms.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 1.34 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | DCC | 945 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-amino-4-(2-chlorophenyl)-6,8- dimethylquinoline | 1.04 g | NC=1C=NC2=C(C=C(C=C2C1C1=C(C=CC=C1)Cl)C)C | C17H15ClN2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(2-chlorophenyl)-3-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylcarbonyl)amino-6,8-dimethylquinoline | 341 mg, 18.0% | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)NC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C31H31ClN2O3
